US08030438B2
(7) Synthesis of 3″,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene
2,5-bis(tributylstannyl)-3,4-bis(diethoxyphosphoryl)-thiophene and commercially available copper(I) cyanide (2.2 equivalents) were dissolved in solvents indicated in the following Table 11, to which 2-iodobithiophene (2.2 equivalents) was added at room temperature. Thereafter, the reaction mixture was heated to 70° C. and stirred for 4 to 22 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a 0.6M hydrochloric acid aqueous solution was added, followed by extraction of the resulting product with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting product was purified with a silica gel column (ethyl acetate:methanol=15:1) to obtain the specified substance 1.

reactant | 2,5-bis(tributylstannyl)-3,4-bis(diethoxyphosphoryl)-thiophene | C(CCC)[Sn](C=1SC(=C(C1P(=O)(OCC)OCC)P(=O)(OCC)OCC)[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | copper(I) cyanide | 2.2 equivalents | [Cu]C#N
reactant | 2-iodobithiophene | 2.2 equivalents | IC1(SC=CC1)C=1SC=CC1 | C8H7IS2
reactant | hydrochloric acid | 0.6M | Cl | ClH
product | 3″,4″-bis(diethoxyphosphoryl)-[2,2′;5′,2″;5″,2″′;5″′,2″″]-quinquethiophene | C(C)OP(=O)(OCC)C1=C(SC(=C1P(=O)(OCC)OCC)C=1SC(=CC1)C=1SC=CC1)C1=CC=C(S1)C=1SC=CC1 | C28H30O6P2S5
